US05290788
1-Butyl-3-(2-[(1-[4-chlorobenzyl]indol-5-yl)oxyl]ethyl)urea
To a mixture of 1-(4-chlorobenzyl)-5-(aminoethoxy)-indole (1.0 g) in pyridine (I ml), butyl isocyanate (0.5 ml) was added at ambient temperature. After stirring for 15 minutes, excess pyridine was evaporated in vacuo and the residue recrystallized from ethanol to yield the title product, m.p. 163°-164° C.

reactant | 1-(4-chlorobenzyl)-5-(aminoethoxy)-indole | 1.0 g | ClC1=CC=C(CN2C=CC3=CC(=CC=C23)OCCN)C=C1 | C17H17ClN2O
reactant | butyl isocyanate | 0.5 ml | C(CCC)N=C=O | C5H9NO
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | 1-Butyl-3-(2-[(1-[4-chlorobenzyl]indol-5-yl)oxyl]ethyl)urea | C(CCC)NC(=O)NCCOC=1C=C2C=CN(C2=CC1)CC1=CC=C(C=C1)Cl | C22H26ClN3O2
